US05998573
(a) Synthesis of 2,4-diamino-6-chloro-1,3,5-triazine
184.5 g (1.0 mol) of cyanuric chloride was dissolved in 800 mL of acetonitrile at room temperature, and 303.7 g (5.0 mol) of 28%-aqueous ammonia was added dropwise into the solution cooled to 0° C., over 2 hours while vigorously stirring and maintaining the reaction temperature at not more then 10° C. After the completion of dropwise addition, cooling was stopped, and stirring was continued for 1 hour at room temperature, followed by gradually heating to 45° C. and allowing to further react for 4 hours. After cooling, a product was filtered, followed by washing with a large quantity of water. The filtered product was dried at 50° C. in vacuo for 6 hours to obtain 115 g (a yield of 79%) of the above-identified compound.

reactant | cyanuric chloride | 1.0 mol, 184.5 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | ammonia | N | H3N
reactant | acetonitrile | 800 mL | C(C)#N | C2H3N
product | 2,4-diamino-6-chloro-1,3,5-triazine | yield of 79% | NC1=NC(=NC(=N1)N)Cl | C3H4ClN5
